US07153853B2
2-(2-difluoromethyl-4-hydroxybenzimidazol-1-yl)-4-(2-hydroxymethylpyrrolidin-1-yl)-6-morpholinopyrimidine (Compound 1)
213 mg (0.38 mmol) of 2-(4-tert-butyldimethyl-silyloxy-2-difluoromethylbenzimidazol-1-yl)-4-(2-hydroxymethylpyrrolidin-1-yl)-6-morpholinopyrimidine dissolved in anhydrous THF (7 ml) was added with tetra-n-butylammoniumfluoride (0.4 ml, 1M THF solution) at room temperature and stirred for 30 minutes. The reaction solution was added with water, extracted several times with ethyl acetate, washed with saturated saline solution and dried over anhydrous magnesium sulfate. The solvent was removed under the reduced pressure and the residue was purified by silica gel column chromatography (n-hexane ethyl acetate=1:4) to obtain 101 mg (yield: 60%) of the titled compound as colorless crystals.

reactant | 2-(4-tert-butyldimethyl-silyloxy-2-difluoromethylbenzimidazol-1-yl)-4-(2-hydroxymethylpyrrolidin-1-yl)-6-morpholinopyrimidine | 0.38 mmol, 213 mg | C(C)(C)(C)C1=C(C(=C(C=2N(C(=NC21)C(F)F)C2=NC(=CC(=N2)N2C(CCC2)CO)N2CCOCC2)C)C)O[SiH3] | C27H38F2N6O3Si
reactant | tetra-n-butylammoniumfluoride | 1M, 0.4 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 2-(2-difluoromethyl-4-hydroxybenzimidazol-1-yl)-4-(2-hydroxymethylpyrrolidin-1-yl)-6-morpholinopyrimidine | 101 mg, yield: 60% | FC(C1=NC2=C(N1C1=NC(=CC(=N1)N1C(CCC1)CO)N1CCOCC1)C=CC=C2O)F | C21H24F2N6O3
